US06348616B1
This general method teaches (1) metallation of the pivalamide of parachloroaniline with n-butyllithium followed by nucleophilic substitution with an ester to form a ketone, (2) synthesis of a tertiary carbinol by Grignard addition to the ketone, and (3) cyclization of the unprotected amine with the carbinol by addition of a condensing agent to form a benzoxazinone.

reactant | pivalamide | C(C(C)(C)C)(=O)N | C5H11NO
reactant | parachloroaniline | ClC1=CC=C(N)C=C1 | C6H6ClN
reactant | n-butyllithium | C(CCC)[Li]
reactant | carbinol | CO | CH4O
product | benzoxazinone | O1NC(CC2=C1C=CC=C2)=O | C8H7NO2
